US20010047099A1
To a solution of methyl 4-amino-3,5-dichloro-6-phenoxypyridine-2-carboxylate in methanol (10 mL) and water (100 mL) was added sodium hydroxide (0.5 g excess) and the solution heated under reflux for 3 hr. The solution was cooled and concentrated hydrochloric acid (2 mL) added. The solid was collected to give 4-amino-3,5-dichloro-6-phenoxypyridine-2-carboxylic acid (1.1 g, 90%); mp 158-60° C.

reactant | methyl 4-amino-3,5-dichloro-6-phenoxypyridine-2-carboxylate | NC1=C(C(=NC(=C1Cl)OC1=CC=CC=C1)C(=O)OC)Cl | C13H10Cl2N2O3
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 4-amino-3,5-dichloro-6-phenoxypyridine-2-carboxylic acid | 1.1 g, 90% | NC1=C(C(=NC(=C1Cl)OC1=CC=CC=C1)C(=O)O)Cl | C12H8Cl2N2O3
